US08293768B2
Synthesis of N-benzyl-4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxamide
To a solution of 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylic acid (0.30 g, 1.00 mmol) and 4-methylmorpholine (0.15 mL, 1.10 mmol) in tetrahydrofuran (50 mL) was added isobutyl chloroformate (0.15 mL, 1.3 mmol) at 0° C. The resulting mixture was stirred at ambient temperature for 2 hours and benzylamine (0.20 mL, 1.80 mmol) was added. The reaction mixture was kept stirring for 17 hours at ambient temperature. The solvent was removed in vacuo, and the residue was purified by column chromatography to afford the title compound as a white powder in 7% yield (0.030 g): mp 234-236° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.54 (d, J=5.7 Hz, 1H), 7.60 (d, J=7.8 Hz, 2H), 7.39-7.12 (m, 8H), 4.35 (d, J=5.7 Hz, 2H), 4.14-3.92 (m, 4H), 2.46 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 161.6, 156.7, 152.7, 150.7, 139.5, 138.9, 128.8, 128.1, 127.1, 126.6, 123.3, 118.3, 117.8, 42.4, 42.3, 41.2, 17.0; MS (ES+) m/z 393.3 (M+1).

reactant | 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylic acid | 1.00 mmol, 0.30 g | CC=1N=C(SC1C(=O)O)N1C(N(CC1)C1=CC=CC=C1)=O | C14H13N3O3S
reactant | 4-methylmorpholine | 1.10 mmol, 0.15 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 1.3 mmol, 0.15 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | benzylamine | 1.80 mmol, 0.20 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-benzyl-4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxamide | 7% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1)C1=CC=CC=C1)=O)C | C21H20N4O2S
